US05175281
21-Iodo-16α-methylpregna-1,4-diene-3,20-dione
16α-Methylpregna-1,4-diene-3,20-dione (2.26 g), carbon tetrachloride (15 ml), methanol (7.3 ml) and calcium chloride in methanol (10%, 0.24 ml) are combined and stirred for 15 min at 25°-25°. Calcium oxide (2.50 g) is added and the mixture stirred an additional 5 min. A mixture of iodine (3.45 g), calcium chloride (10%, 5.4 ml) and methanol (2.4 ml) is added dropwise over 1 hr to the steroid mixture. After an additional 30 min the mixture is diluted with methylene chloride (100 ml), filtered through celite and concentrated. The residue is partitioned between methylene chloride and water, the phases are separated, the organic phase is washed with sodium sulfite, dried over magnesium sulfate and then concentrated to give the title compound, NMR (CDCl3) 0.7, 0.9, 1.2, 5.25, 5.35, 6.0, 6.2 and 7.9 δ.

reactant | 16α-Methylpregna-1,4-diene-3,20-dione | 2.26 g | C[C@H]1[C@H](C(C)=O)[C@]2(CC[C@@H]3[C@]4(C=CC(C=C4CC[C@H]3[C@@H]2C1)=O)C)C | C22H30O2
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | Calcium oxide | 2.50 g | [O-2].[Ca+2]
reactant | iodine | 3.45 g | II | I2
reactant | calcium chloride | 5.4 ml | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 0.24 ml | CO | CH4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 2.4 ml | CO | CH4O
solvent | methanol | 7.3 ml | CO | CH4O
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 21-Iodo-16α-methylpregna-1,4-diene-3,20-dione | ICC([C@H]1[C@@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O)C)=O | C22H29IO2
